US04315016
Ethyl 1-(1,2,4-triazol-1-yl)-iso-butyl ether (Compound 5)
The diethylacetal of iso-butyraldehyde (2.8 g) was reacted with acetyl chloride (2.7 g) in the presence of copper bronze; the product was reacted with 1,2,4-triazole (3.0 g) in acetonitrile (50 ml) to give the title compound as a viscous oil which GLC showed to be slightly impure.

reactant | iso-butyraldehyde | 2.8 g | C(C(C)C)=O | C4H8O
reactant | acetyl chloride | 2.7 g | C(C)(=O)Cl | C2H3ClO
reactant | 1,2,4-triazole | 3.0 g | N1N=CN=C1 | C2H3N3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | copper bronze | [Cu] | Cu
product | Ethyl 1-(1,2,4-triazol-1-yl)-iso-butyl ether | N1(N=CN=C1)C(C(C)C)OCC | C8H15N3O
